US06175007B1
2-Chloro-5-(5-chloro-1-difluoromethyl-2-methyl-1H-imidazol-4-yl)aniline
7 g (22 mmol) of 5-chloro-4-(4-chloro-3-nitrophenyl)-1-difluoromethyl-2-methyl-1H-imidazole were dissolved in 200 ml of methanol with heating. This solution was added dropwise to a suspension of 3.6 g (65 mmol) of iron powder in 150 ml of glacial acetic acid, stirred at reflux temperature. After 3 hours, the reaction mixture was poured into 500 ml of water. A further 500 ml of ethyl acetate were added to the mixture, whereupon the iron residues were filtered off. The aqueous phase was separated off and mixed with another 500 ml of ethyl acetate. The combined organic phases were washed with water and saturated aqueous sodium chloride solution, dried over magnesium sulfate and finally concentrated. To remove the remaining acetic acid, the crude product was treated with 100 ml of toluene, whereupon the mixture was again concentrated to dryness. Yield: 5.7 g.

reactant | 5-chloro-4-(4-chloro-3-nitrophenyl)-1-difluoromethyl-2-methyl-1H-imidazole | 22 mmol, 7 g | ClC1=C(N=C(N1C(F)F)C)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C11H7Cl2F2N3O2
reactant | water | 500 ml | O | H2O
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 200 ml | CO | CH4O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 65 mmol, 3.6 g | [Fe] | Fe
product | 2-Chloro-5-(5-chloro-1-difluoromethyl-2-methyl-1H-imidazol-4-yl)aniline | ClC1=C(N)C=C(C=C1)C=1N=C(N(C1Cl)C(F)F)C | C11H9Cl2F2N3
